Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Morphine
 
Attending: ___
 
___ Complaint:
ICD shock
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo male with h/o HTN, CAD s/p stents LAD, 
diagonal and OM1, ESRD on HD, and ICD for recurrent polymorphic 
ventricular tachycardia, history of probable amiodarone-induced 
lung toxicity admitted with firing of his ICD. Symptoms started 
at HD where he had nausea and several episodes of vomiting. He 
then felt that he was going to be shocked and was shocked 10+ 
times. He reports that this has happened before when his 
electrolytes were off. He was sent to the ED where he was given 
calcium gluconate 2 g x1, magnesium 2g x1 and was seen by the EP 
service whow started amiodarone drip as well as lidocaine 50 mg 
IV x1. Per ED resident, he had 2 further shocks while in the ED, 
therefore he was transfer to the CCU. He remained HD stable and 
AA0x3.  
.  
On review of symptoms, he denies any prior history of stroke, 
TIA, deep venous thrombosis (he did have a superficial spahenous 
clot), pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, cough, hemoptysis, black stools or red 
stools. He denies recent fevers, chills or rigors. He denies 
exertional buttock or calf pain. All of the other review of 
systems were negative. He does report 3 ___ BMs the morning of 
admission as well as nausea and vomitting. No abdominal pain.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  

 
Past Medical History:
# CV
--CAD: LAD, diagonal, OM1 stent; PCI
--ICD ___ recurrent polymorphic VT
--Pacemaker
--CHF: EF ___ echo)
--HTN
--Hyperlipidemia
--TIA
# Pulm:  R pleural effusion (___): Thoracentesis x2, cytology 
negative, c/b hydropneumothorax, trapped lung
# Renal
--ESRD ___ HTN
--HD qTRS
# Hematology
--Anemia
--Factor V Leiden (heterozygous): Warfarin goal INR 1.3
--Positive lupus anticoagulant (___)
--Thrombi: R greater saphenous vein, L varicosities
# GU:  Prostate cancer s/p B subcapsular orchiectomy  
# Endo: Hypothyroidism  
# Psych: Depression
 
Social History:
___
Family History:
# M, d 80: Heart failure
# F, d ___: Died in sleep
# Siblings (1 sister, 3 brothers): MI, dementia, heart disease
 
Physical Exam:
VS: T 98.4, BP 117/49, HR 80, RR 16, 100 O2 % on 2L  
Gen: Elderly male in NAD, resp or otherwise. Oriented x3. Mood, 
affect appropriate. Pleasant.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
Neck: No JVD.  
CV: RR, normal S1, S2. No S4, no S3, Harsh murmur at LUSB ___ L 
A-V HD fistula.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheeze, 
rhonchi, but had decreased breath sounds at the right base.  
Abd: Obese, soft, NTND, No HSM or tenderness. No abdominal 
bruits freely reducible lower abdominal hernia.  
Ext: No edema, no calf tenderness  
Skin: Well healed incision of upper back s/p skin biopsy.  
Pulses:  
Right: Carotid 2+ without bruit; Femoral 2+ without bruit; 2+ DP 
 
Left: Carotid 2+ without bruit; Femoral 2+ without bruit; 2+ DP 

 
Pertinent Results:
___ 05:00PM BLOOD WBC-11.6* RBC-4.01* Hgb-11.7* Hct-34.7* 
MCV-87 MCH-29.1 MCHC-33.7 RDW-18.3* Plt ___
___ 05:00PM BLOOD Neuts-80* Bands-5 Lymphs-10* Monos-3 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0
___ 05:00PM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-2+ 
Macrocy-1+ Microcy-1+ Polychr-1+ Ovalocy-OCCASIONAL Envelop-2+

___ 07:10AM BLOOD WBC-4.8 RBC-3.27* Hgb-9.4* Hct-27.9* 
MCV-85 MCH-28.8 MCHC-33.8 RDW-18.3* Plt ___
___ 07:10AM BLOOD ___ PTT-39.5* ___
___ 07:10AM BLOOD Glucose-70 UreaN-33* Creat-5.1*# Na-142 
K-3.9 Cl-95* HCO3-37* AnGap-14
___ 05:00PM BLOOD CK(CPK)-41
___ 07:10AM BLOOD Calcium-8.5 Phos-5.4* Mg-2.8*

 
Brief Hospital Course:
___ yo male with h/o CAD, CHF, ESRD on HD and polymorphic VT 
presenting after being shocked by ICD likley in the setting of 
fluid and elctrolyte shifts.
.  
# ICD firing: Polymorphic VT s/p ICD firing. Per primary 
nephrologist, patient has been challenging to control in regard 
to electrolyte balance. Although he had been titrated to higher 
potassium range in order to prevent further episodes. It appears 
that viral gastroenteritis and diarrhea further decreased 
potassium, down to 3.5 at dialysis per report. Patient was 
repleted and controlled with IV amiodarone, which was 
discontinued shortly after admisison. Patient has remained 
stable and will not require any medication changes. 
.  
# Coronary artery disease: Hitory of stent to LAD, diagonal and 
OM. Last cath on ___ revealed patent stents. Medical regimen 
of aspirin, statin and beta blocker were maintained this 
admission.
.  
# Chronic systolic heart failure: EF ___. Currently appears 
euvolemic after dialysis. Fluid status to be controlled at 
dialysis per routine, with special attention to potassium level. 
 
.  
# Gastroenteritis: Vomiting and diarrhea. Likely 
gastroenteritis, with transient lyphocytosis which is now 
resolved. Patient has not had any more emesis and bowel 
movements have become less freqent. No risk factor for C. Diff 
infection were found. Patient instructed to report to PCP if 
symptoms do not improve in the next ___ hours.
.  
# ESRD on dialysis: Followed as oupatient by Dr. ___. Patient 
will continue on current Dialysis schedule ___. 
.  
# Factor V leiden heterozygote: therapeutic on coumadin  
.  
# hypothyroidism: we continued levothyroxine  
.  
# h/o trapped lung: O2 sats stable, no intervention during 
admission.
.  
# HTN: well controlled on current regimen, no changes were made. 
 
.
# FEN: renal, cardiac diet  
.  
# Prophylaxis: Therapeutic on coumadin  
.  
# Code: Patient remained DNR/DNI during hospitalization, 
confrimed with patient and daughter  
.  
# Communication: Daughter ___ ___  

 
___ on Admission:
Citalopram 20 mg daily  
LEVOXYL 200 mcg daily  
LISINOPRIL 5 mg daily  
Mexiletine 150 mg twice a day  
SIMVASTATIN 20 mg daily  
TOPROL XL 25 mg daily  
TRAZODONE 100 mg at night-time  

 
Discharge Medications:
1. Mexiletine 150 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
2. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Levothyroxine 100 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID WITH MEALS ().  
8. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Warfarin 1 mg Tablet Sig: Three (3) Tablet PO QHS (once a day 
(at bedtime)).  
10. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
PRIMARY:
Ventricular tachycardia
Viral gastroenteritis

SECONDARY:
Chronic Systolic Heart Failure
End stage renal failure

 
Discharge Condition:
Hemodynamically stable, without further episodes of ventricular 
tachycardia.

 
Discharge Instructions:
You were admitted to the hospital after you began experiencing 
shocks from your defibrillator. We discovered you had developed 
a dangerous heart rhythm which was corrected by the shock. We 
started a medication to stabilize you while hospitalized; you 
will no longer require it after discharge.

Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: 1 L

Please keep all previously scheduled appointments, take all 
medications as directed (no medications were changed this 
hospitalization). If you experience new shocks, or if you 
develop chest pain, shortness of breath, nausea, vomiting, 
diarrhea, or any other symptom that concerns you, please seek 
medical attention.
 
Followup Instructions:
___